US05318966
A solution of 3.10 g (0.007 mol) of rac-N-[5-(cis-1,2,3a, 4,5,9b-hexahydro-3H-benzo[e]indol-3-yl)pentyl]phthalimide in 100 ml of glacial acetic acid was treated with 1.0 g of 10% palladium/charcoal and hydrogenated at 60° for 6 hours at 20 bar hydrogen pressure. The acetic acid was distilled off and the residue was taken up in methylene chloride. The solution was washed with 2N sodium hydroxide solution, dried with sodium sulphate and concentrated. Chromatography over silica gel with ethyl acetate/methanol 19:1 yielded 0.80 g (27%) of rac-cis-2-[5-(6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)pentyl]isoindolin-1-one as a yellow oil [MS: m/e (% basis peak)=404 (M+, 6), 216 (100), 202 (8), 185 (6), 146 (7)] as well as 1.64 g (55%) of rac-2-[5-(6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-cis-benzo[e]indol-6-yl)pentyl]octahydro-cis-isoindole-1,3-dione as a yellow oil [MS: m/e (% basis peak)=424 (M+ , 7), 216 (100), 185 (5)].

reactant | rac-N-[5-(cis-1,2,3a, 4,5,9b-hexahydro-3H-benzo[e]indol-3-yl)pentyl]phthalimide | 0.007 mol, 3.10 g | C1CN([C@H]2CCC3=C([C@@H]12)C=CC=C3)CCCCCN3C(C=1C(C3=O)=CC=CC1)=O | C25H28N2O2
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | 1.0 g | [Pd] | Pd
product | rac-cis-2-[5-(6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)pentyl]isoindolin-1-one | 0.80 g, 27% | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCN2C(C1=CC=CC=C1C2)=O | C26H32N2O2
